US06960598B2
Trifluoromethanesulfonic acid 2-fluoro-5-(7-trifluoromethyl[1,8]naphthyridin-4-yl)phenyl ester (30.0 mg, 0.068 mmol) was coupled to 3-acetamidophenyl-boronic acid (15.9 mg, 0.089 mmol) as described in Example 35 part c), affording N-[2′-fluoro-5′-(7-trifluoromethyl[1,8]naphthyridin-4-yl)biphenyl-3-yl]acetamide (12.0 mg, 41%). δH (360 MHz, CDCl3) 2.20 (3H, s), 7.35-7.47 (5H, m), 7.54-7.60 (2H, m), 7.84 (1H, d, J 8.4), 7.87 (1H, s), 8.56 (1H, d, J 8.8), 9.28 (1H, d, J 4.6). m/z (ES+) 426 [MH]+.

reactant | Trifluoromethanesulfonic acid 2-fluoro-5-(7-trifluoromethyl[1,8]naphthyridin-4-yl)phenyl ester | 0.068 mmol, 30.0 mg | FC1=C(C=C(C=C1)C1=CC=NC2=NC(=CC=C12)C(F)(F)F)OS(=O)(=O)C(F)(F)F | C16H7F7N2O3S
reactant | 3-acetamidophenyl-boronic acid | 0.089 mmol, 15.9 mg | C(C)(=O)NC=1C=C(C=CC1)B(O)O | C8H10BNO3
product | N-[2′-fluoro-5′-(7-trifluoromethyl[1,8]naphthyridin-4-yl)biphenyl-3-yl]acetamide | 12.0 mg, 41% | FC1=C(C=C(C=C1)C1=CC=NC2=NC(=CC=C12)C(F)(F)F)C1=CC(=CC=C1)NC(C)=O | C23H15F4N3O
